US04829067
A mixture of 2.0 g of methyl 3-formyl-2-hydroxybenzoate, 3.51 g of methyl α-bromo-p-chlorophenylacetate, 5.55 g of potassium carbonate and 60 ml of dimethylformamide is heated at 70°-80° C. for 15 minutes and further heated at 100° C. for 10 minutes. The reaction mixture is filtered and washed with ethyl acetate. The washings and the filtrate are combined and water is added to the mixture. The mixture is acidified with 10% hydrochloric acid. The organic layer is collected and the aqueous layer is extracted with ethyl acetate. The organic layer and the extract are combined, washed with water, dried and evaporated to remove solvent. The residue is dissolved in 30 ml of ethanol and 3.25 g of potassium hydroxide are added to the solution. The mixture is refluxed for 1 hour. The reaction mixture is evaporated to remove solvent, and water is added to the residue. The aqueous mixture is acidified with 10% hydrochloric acid and extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. 100 ml of xylene and 150 mg of p-toluenesulfonic acid are added to the residue and the mixture is refluxed for 1 hour. After cooling, ethyl acetate is added to the reaction mixture. The mixture is washed with water, dried and evaporated to remove solvent. The residue is recrystallized from ethyl acetate to give 1.84 g of 2-(4-chlorophenyl)benzofuran-7-carboxylic acid as colorless needles.

reactant | methyl 3-formyl-2-hydroxybenzoate | 2.0 g | C(=O)C=1C(=C(C(=O)OC)C=CC1)O | C9H8O4
reactant | methyl α-bromo-p-chlorophenylacetate | 3.51 g | BrC(C(=O)OC)C1=CC=C(C=C1)Cl | C9H8BrClO2
reactant | potassium carbonate | 5.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)benzofuran-7-carboxylic acid | 1.84 g | ClC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H9ClO3
